US06927228B2
N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-N-methylisoxazole-5-carboxamide
In a manner similar to that of Example 37(e), by reacting 500 mg (1.1 mmol) of 5-(3′-methylaminomethylbiphenyl-4-ylmethyl)thiazolidine-2,4-dione trifluoroacetate with 170 mg (1.3 mmol) of 5-isoxazolecarboxylic acid chloride, and after purification, 120 mg (26%) of N-[4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-N-methylisoxazole-5-carboxamide are obtained in the form of a white solid with a melting point of 160° C.

reactant | 5-(3′-methylaminomethylbiphenyl-4-ylmethyl)thiazolidine-2,4-dione trifluoroacetate | 1.1 mmol, 500 mg | FC(C(=O)O)(F)F.CNCC=1C=C(C=CC1)C1=CC=C(C=C1)CC1C(NC(S1)=O)=O
reactant | 5-isoxazolecarboxylic acid chloride | 1.3 mmol, 170 mg | O1N=CC=C1C(=O)Cl | C4H2ClNO2
product | N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-N-methylisoxazole-5-carboxamide | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(=O)C1=CC=NO1)C | C22H19N3O4S
